2184-08-22 09:07:00 Physician Attending Progress Note
Chief Complaint: gib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69M with cad sp stent to RCA in [**2175**],dm2, afib on coumadin, h/o ugib,
   presented to OSH with brbpr while on coumadin and asa, txr to [**Hospital1 **] due
   to persistent gib. in the ed became hemodynamically unstable, evaluated
   by surgery, gi. txr to micu:
   24 Hour Events:
   -egd in osh -- neg
   -[**Last Name (un) **] in osh -- too much blood
   -red cell scan -- active bleeding from colon/rectum
   -IR -- unable to coil because of difficult access and unable to
   visualize bleeding
   -total 11 u prbc, 4 units FFP
   History obtained from Patient
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   intollerance to
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2184-8-21**] 07:55 PM
   Other medications:
   syntrhocid, tricor, prozal, riss
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Cardiovascular: No(t) Chest pain, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Foley
   Endocrine: Hyperglycemia, History of thyroid disease
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-8-22**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 76 (64 - 85) bpm
   BP: 139/76(95) {83/47(56) - 139/94(99)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
           Total In:
                                                                  2,429 mL
                                                                  2,327 mL
   PO:
           1,400 mL
   TF:
   IVF:
                                                                    500 mL
                                                                     50 mL
   Blood products:
                                                                  1,929 mL
                                                                    877 mL
   Total out:
                                                                  4,120 mL
                                                                  3,845 mL
   Urine:
                                                                  1,220 mL
                                                                    920 mL
   NG:
   Stool:
                                                                  2,900 mL
                                                                  2,925 mL
   Drains:
   Balance:
                                                                 -1,691 mL
                                                                 -1,518 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination (15:20)
   General Appearance: No acute distress. Comfortable lying flat.
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal). No gallop
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent edema.
   Skin:  warm , No Rash: , No Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to voice,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   105 K/uL
   189 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   20 mg/dL
   106 mEq/L
   137 mEq/L
   31.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2184-8-21**]  06:20 PM
                             [**2184-8-21**]  08:22 PM
                             [**2184-8-22**]  12:21 AM
                             [**2184-8-22**]  02:07 AM
                             [**2184-8-22**]  04:15 AM
                             [**2184-8-22**]  08:10 AM
   WBC
   5.2
   7.7
   Hct
   24.7
   23.6
   32.4
   30.7
   31.2
   31.3
   Plt
   168
   116
   105
   Cr
   1.0
   Glucose
   189
   Other labs: PT / PTT / INR:16.7/30.3/1.5, ALT / AST:19/20, Alk Phos / T
   Bili:35/1.1, Fibrinogen:120 mg/dL, LDH:197 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.3 mg/dL, PO4:2.8 mg/dL   ECG: Afib/flutter
   Imaging: Low sigmoid or rectal bleed by RBC scan.
   Assessment and Plan
   69M with CAD, afib on coumadin, with known diverticulosis, nwo with
   persistent dramatic lower GIB, unsuccessful embolization attempt by IR,
   currently undergoing evaluation by GI, surgery, IR:
   gib: most likely diverticular from sigmoid/rectum, persistent bleeding.
   Has been hemodynamically stable.
   -Colonscopy revealed some non-specific inflammation. No discrete
   bleeeding source identified.
   -surgery aware that pt may need
   -support with products as needed, hct >30; check serum calcium given
   the volume of blood replacement.
   -hct q4hr
   -per IR, if bleeding increases would need repeat RBC scan to determine
   whether another IR procedure would be helpful
   -npo
   -has adequate access
   cad: s/p RCA stent
   -holding asa
   -will monitor for signs of ischemia
   afib
   -Latest ECG shows Afib/flutter; obviously holding coumadin. Consider
   amiodarone to keep patient in NSR if it has not been tried in past.
   dm
   -riss
   Hypothyroid
   -cont synthroid
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2184-8-21**] 06:39 PM
   20 Gauge - [**2184-8-21**] 06:41 PM
   18 Gauge - [**2184-8-22**] 12:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU pending
   Total time spent: 45 minutes
   Patient is critically ill

2184-08-22 11:20:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   [**2184-8-21**].
   - Tagged RBC scan showed sigmoid colon or rectum as source of bleed
   - Went directly to IR, but unable to localize source of bleeding
   - Received total of 11 units PRBCs (9 units here, ?2 OSH)
   - Hct 30.1 (OSH) --> ?2 units --> 28.3 --> 1 unit --> 24.7 --> 2 units
   --> 23.6 -->  4 units PRBCs --> 32.4 --> 30.7 --> 2 units -->
   - spoke with GI and surgery re: ongoing transfusion requirements
   - GI will scope him at 9AM if prepped with 4L of golytely
   - ongoing bloody bowel movements all night long
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   intollerance to
   Last dose of Antibiotics:
   Metronidazole - [**2184-8-22**] 10:25 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2184-8-22**] 09:30 AM
   Fentanyl - [**2184-8-22**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-8-22**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 77 (64 - 92) bpm
   BP: 108/58(69) {83/43(56) - 141/96(106)} mmHg
   RR: 13 (9 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
           Total In:
                                                                  2,429 mL
                                                                  3,627 mL
   PO:
           2,200 mL
   TF:
   IVF:
                                                                    500 mL
                                                                    550 mL
   Blood products:
                                                                  1,929 mL
                                                                    877 mL
   Total out:
                                                                  4,120 mL
                                                                  4,195 mL
   Urine:
                                                                  1,220 mL
                                                                  1,120 mL
   NG:
   Stool:
                                                                  2,900 mL
                                                                  3,075 mL
   Drains:
   Balance:
                                                                 -1,691 mL
                                                                   -568 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   Gen: NAD, lying bed confortably
   CV: RRR, no m/r/g
   Pulm: CTA b/l
   Abd: soft, NT, ND, bowel sounds present
   Ext: trace edema
   Labs / Radiology
   105 K/uL
   10.6 g/dL
   189 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   20 mg/dL
   106 mEq/L
   137 mEq/L
   31.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2184-8-21**]  06:20 PM
                             [**2184-8-21**]  08:22 PM
                             [**2184-8-22**]  12:21 AM
                             [**2184-8-22**]  02:07 AM
                             [**2184-8-22**]  04:15 AM
                             [**2184-8-22**]  08:10 AM
   WBC
   5.2
   7.7
   Hct
   24.7
   23.6
   32.4
   30.7
   31.2
   31.3
   Plt
   168
   116
   105
   Cr
   1.0
   Glucose
   189
   Other labs: PT / PTT / INR:16.7/30.3/1.5, ALT / AST:19/20, Alk Phos / T
   Bili:35/1.1, Fibrinogen:120 mg/dL, LDH:197 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P:  Mr. [**Known lastname 7652**] is a 69 yo male with CAD, HL, PAF on coumadin, s/p
   CVA, hypothyroid, who is admitted for lower GI bleed localized to
   sigmoid/rectum.
   .
   1.  GI bleed.  GI bleed was localized to sigmoid colon or rectal colon
   on tagged RBC.  BP currently stable though was transiently in 70s at
   OSH and in 80s upon arrival to the MICU.  S/p 11  units PRBCs over the
   last 24 hours with ongoing GI bleeding.  EGD showed colitis with
   diverticulitis.
   - Type and Cross 4 units at all times
   - GI and surgery following tonight
   - consider angio versus repeat tagged RBC scan to look for worsening
   bleed
   - q 4 hour Hcts, goal Hct > 30 while actively bleeding
   - 3 peripherals (1 18, 2 20s)
   .
   2.  A. fib.  Was anticoagulated with coumadin though INR at OSH was
   only 1.6.  INR reversed with Vitamin K and FFP.  S/p 6 units of FFP.
   - transfuse FFP to keep INR < 1.6
   .
   2. CAD. No ischemic changes on EKG, patient denies CP.
   - hold aspirin, BB in setting of bleed
   - continue tricor
   - serial EKGs
   .
   3.  Type 2 DM.
   - hold oral hypoglycemics
   - f/u fingersticks
   - HISS; can consider resuming NPH when diet is advanced
   .
   4.  HTN.
   - hold lisinopril, toprol, doxazosin due to low BPS in setting of bleed
   .
   5.  Hypothyroid.
   - continue levoxyl
   .
   6.  Depression.
   - continue fluoxetine
   .
   7.  Med Rec.  Will need to clarify home meds with patient's wife or
   pharmacy.  Patient unclear of his home meds.
   .
   FEN: NPO pending stability of Hct
   PPx: boots
   CODE: FULL, ICU consent signed
   Dispo: ICU
   Access: 2 20s and an 18
   Comm: patient
   .
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2184-8-21**] 06:39 PM
   20 Gauge - [**2184-8-21**] 06:41 PM
   18 Gauge - [**2184-8-22**] 12:05 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2184-08-23 07:14:00 Physician Resident Progress Note
Chief Complaint: Lower GI Bleed
   24 Hour Events:
 COLONOSCOPY - At [**2184-8-22**] 09:30 AM
 EKG - At [**2184-8-22**] 10:02 AM
   serial HCTs. 31.2->31.3 ->27.7, then given 1 unit prbcs-> 31->29 then 1
   unit prbcs
   -HR 120's-150s, looks like afib with RVR, started back on BB, (home
   dose 250mg toprol XL, started 25mg TID for now.
   -scoped by GI, found no active bleeding, but evidence of colitis and
   diverticulosis.
   -consider asking cardiology re: amiodarone for afib for rhythm control,
   vs. needing anticoag for lifetime given GIB-discuss on rounds tomorrow.
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   intollerance to
   Last dose of Antibiotics:
   Ciprofloxacin - [**2184-8-23**] 12:00 AM
   Metronidazole - [**2184-8-23**] 02:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2184-8-22**] 09:30 AM
   Fentanyl - [**2184-8-22**] 09:30 AM
   Other medications:
   Changes to medical and family history:  None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-8-23**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 67 (66 - 124) bpm
   BP: 121/63(78) {83/39(52) - 141/96(106)} mmHg
   RR: 12 (1 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
           Total In:
                                                                  4,947 mL
                                                                    416 mL
   PO:
                                                                  2,200 mL
           TF:
   IVF:
                                                                  1,350 mL
                                                                    300 mL
   Blood products:
                                                                  1,397 mL
                                                                    116 mL
   Total out:
                                                                  6,575 mL
                                                                  1,400 mL
   Urine:
                                                                  3,500 mL
                                                                  1,400 mL
   NG:
   Stool:
                                                                  3,075 mL
   Drains:
   Balance:
                                                                 -1,628 mL
                                                                   -984 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Gen: NAD, lying bed confortably
   CV: RRR, no m/r/g
   Pulm: CTA b/l
   Abd: soft, NT, ND, bowel sounds present
   Ext: trace edema
   Labs / Radiology
   101 K/uL
   11.2 g/dL
   135 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.8 mEq/L
   10 mg/dL
   109 mEq/L
   138 mEq/L
   32.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2184-8-21**]  06:20 PM
                             [**2184-8-21**]  08:22 PM
                             [**2184-8-22**]  12:21 AM
                             [**2184-8-22**]  02:07 AM
                             [**2184-8-22**]  04:15 AM
                             [**2184-8-22**]  08:10 AM
                             [**2184-8-22**]  12:11 PM
                             [**2184-8-22**]  04:18 PM
                             [**2184-8-22**]  08:00 PM
                             [**2184-8-23**]  02:28 AM
   WBC
   5.2
   7.7
   5.6
   Hct
   24.7
   23.6
   32.4
   30.7
   31.2
   31.3
   27.7
   31.7
   29.0
   32.1
   Plt
   168
   116
   105
   101
   Cr
   1.0
   1.1
   Glucose
   189
   135
   Other labs: PT / PTT / INR:14.5/27.8/1.3, ALT / AST:19/20, Alk Phos / T
   Bili:35/1.1, Differential-Neuts:61.0 %, Lymph:25.6 %, Mono:7.9 %,
   Eos:5.2 %, Fibrinogen:184 mg/dL, LDH:197 IU/L, Ca++:8.3 mg/dL, Mg++:1.7
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   A/P:  Mr. [**Known lastname 7652**] is a 69 yo male with CAD, HL, PAF on coumadin, s/p
   CVA, hypothyroid, who is admitted for lower GI bleed localized to
   sigmoid/rectum.
   #  Afib with RVR:  The patient went into Afib with RVR yesterday.  He
   was restarted on Metoprolol yesterday, at a lower dose.  His HR is
   currently 67, and he is in sinus rhtyhm.   Was anticoagulated with
   coumadin prior to admission though INR at OSH was only 1.6.  INR
   reversed with Vitamin K and FFP.  S/p 6 units of FFP.
    - Touch base with outpatient cardiologist re: anticoagulation and
   prior TTE
   # GI bleed.  GI bleed was localized to sigmoid colon or rectal colon on
   tagged RBC.  BP currently stable though was transiently in 70s at OSH
   and in 80s upon arrival to the MICU.   The patient has received 2 [**Location 7668**] over the past 24 hours.  EGD showed colitis with diverticulitis.
   On cipro/flagyl.
   - F/U [**Hospital1 **] Hcts
   - Type and Cross 4 units at all times
   - GI following
   - Goal Hct > 30 while actively bleeding
   - 3 peripherals (1 18, 2 20s)
   - ADAT to clears
   - Decrease PPI to daily
   # TCP: likely dilutional, though may be [**2-16**] PPI..
   - monitor and transfuse if less than 50.
   - Decrease PPI to daily.
   #  CAD. No ischemic changes on EKG, patient denies CP.
   - hold aspirin in setting of bleed
   - continue tricor
   - serial EKGs
   #   Type 2 DM.
   - hold oral hypoglycemics
   - f/u fingersticks
   - HISS; can consider resuming NPH when diet is advanced
   #   HTN.
   - hold lisinopril, doxazosin due to low BPS in setting of bleed
   - Continue Metoprolol and uptitrate as needed.
   #   Hypothyroid.
   - continue levoxyl
   .
   #  Depression.
   - continue fluoxetine
   #  Med Rec.  Will need to clarify home meds with patient's wife or
   pharmacy.  Patient unclear of his home meds.
   FEN: NPO pending stability of Hct
   PPx: boots
   CODE: FULL, ICU consent signed
   Dispo: ICU
   Access: 2 20s and an 18
   Comm: patient
   ICU Care
   Nutrition: NPO.  ADAT
   Glycemic Control:
   Lines:
   16 Gauge - [**2184-8-21**] 06:39 PM
   20 Gauge - [**2184-8-21**] 06:41 PM
   18 Gauge - [**2184-8-22**] 12:05 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  F/U 1 PM Hct and consider transfer to floor.

2184-08-23 10:07:00 Physician Attending Progress Note
Chief Complaint: gib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69M with afib on coumadin, presented with GIB, likely lower, with
   colonoscopy revealing diverticulosis and mild colitis N.O.S:
   24 Hour Events:
   -afib with rvr, now back in sinus, on metoprolol
   -2 units over 24 hrs
   -started on abx
   History obtained from Patient
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   intollerance to
   Last dose of Antibiotics:
   Ciprofloxacin - [**2184-8-23**] 12:00 AM
   Metronidazole - [**2184-8-23**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   riss, mvi, fluoxetine, levothyrox, tricor, protonix [**Hospital1 **], flagyl, cipro,
   lopressor,
   Changes to medical and family history:
   discussed stroke history: presented with changes in vision 1.5 years
   ago; head CT and MRI positive for CVA, awaiting final records
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Endocrine: Hyperglycemia
   Heme / Lymph: Lymphadenopathy
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-8-23**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 70 (66 - 124) bpm
   BP: 131/71(86) {83/39(52) - 131/81(88)} mmHg
   RR: 13 (1 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
           Total In:
                                                                  4,947 mL
                                                                    566 mL
   PO:
                                                                  2,200 mL
           TF:
   IVF:
                                                                  1,350 mL
                                                                    450 mL
   Blood products:
                                                                  1,397 mL
                                                                    116 mL
   Total out:
                                                                  6,575 mL
                                                                  2,000 mL
   Urine:
                                                                  3,500 mL
                                                                  2,000 mL
   NG:
   Stool:
                                                                  3,075 mL
   Drains:
   Balance:
                                                                 -1,628 mL
                                                                 -1,434 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   101 K/uL
   135 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.8 mEq/L
   10 mg/dL
   109 mEq/L
   138 mEq/L
   33.2 %
   5.6 K/uL
        [image002.jpg]
                             [**2184-8-21**]  08:22 PM
                             [**2184-8-22**]  12:21 AM
                             [**2184-8-22**]  02:07 AM
                             [**2184-8-22**]  04:15 AM
                             [**2184-8-22**]  08:10 AM
                             [**2184-8-22**]  12:11 PM
                             [**2184-8-22**]  04:18 PM
                             [**2184-8-22**]  08:00 PM
                             [**2184-8-23**]  02:28 AM
                             [**2184-8-23**]  08:07 AM
   WBC
   7.7
   5.6
   Hct
   23.6
   32.4
   30.7
   31.2
   31.3
   27.7
   31.7
   29.0
   32.1
   33.2
   Plt
   116
   105
   101
   Cr
   1.0
   1.1
   Glucose
   189
   135
   Other labs: PT / PTT / INR:14.5/27.8/1.3, ALT / AST:19/20, Alk Phos / T
   Bili:35/1.1, Differential-Neuts:61.0 %, Lymph:25.6 %, Mono:7.9 %,
   Eos:5.2 %, Fibrinogen:184 mg/dL, LDH:197 IU/L, Ca++:8.3 mg/dL, Mg++:1.7
   mg/dL, PO4:2.5 mg/dL
   Imaging: no new
   Microbiology: none
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 DIABETES MELLITUS (DM), TYPE II
   69M with DM, CAD, h/o gib, afib on coumadin, presented with massive
   GIB, now stabilizing:
   gib: diverticulosis and inflammation
   -discuss with gi next steps if any
   -good access
   -transfuse prn
   afib
   -bb
   -holding a/c
   -will discuss with outpatient cardiologist vs. inpatient consult
   regarding rhythm control
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2184-8-21**] 06:41 PM
   18 Gauge - [**2184-8-22**] 12:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2184-08-24 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - intermittenlty in afib, responds to bb
   - HCT 34-->31
   - ADAT
   - C/O no bed available
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   intollerance to
   Last dose of Antibiotics:
   Metronidazole - [**2184-8-24**] 12:00 AM
   Ciprofloxacin - [**2184-8-24**] 03:13 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2184-8-23**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-8-24**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 65 (63 - 105) bpm
   BP: 113/63(75) {99/43(57) - 131/76(87)} mmHg
   RR: 15 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,516 mL
                                                                    300 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    800 mL
                                                                    300 mL
   Blood products:
                                                                    116 mL
   Total out:
                                                                  4,640 mL
                                                                  1,100 mL
   Urine:
                                                                  4,490 mL
                                                                  1,100 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                 -3,124 mL
                                                                   -800 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Gen: NAD, lying in bed, comfortable
   HEENT: EOMI, o/p clear
   CV: RRR, no m/r/g
   Pulm: CTA bilaterally
   Abd: soft, NT, ND, bowel sounds present
   Ext: cool extremities, no peripheral edema
   Neuro: AxOx3, answering questions appropriately
   Labs / Radiology
   145 K/uL
   11.0 g/dL
   176 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.7 mEq/L
   7 mg/dL
   108 mEq/L
   138 mEq/L
   31.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2184-8-22**]  08:10 AM
                             [**2184-8-22**]  12:11 PM
                             [**2184-8-22**]  04:18 PM
                             [**2184-8-22**]  08:00 PM
                             [**2184-8-23**]  02:28 AM
                             [**2184-8-23**]  08:07 AM
                             [**2184-8-23**]  01:10 PM
                             [**2184-8-23**]  10:00 PM
                             [**2184-8-23**]  10:50 PM
                             [**2184-8-24**]  03:04 AM
   WBC
   5.6
   6.1
   Hct
   31.3
   27.7
   31.7
   29.0
   32.1
   33.2
   34.0
   31.5
   31.8
   Plt
   101
   136
   145
   Cr
   1.1
   1.1
   Glucose
   135
   176
   Other labs: PT / PTT / INR:13.7/26.9/1.2, ALT / AST:19/20, Alk Phos / T
   Bili:35/1.1, Differential-Neuts:61.0 %, Lymph:25.6 %, Mono:7.9 %,
   Eos:5.2 %, Fibrinogen:184 mg/dL, LDH:197 IU/L, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   A/P:  Mr. [**Known lastname 7652**] is a 69 yo male with CAD, HL, PAF on coumadin, s/p
   CVA, hypothyroid, who is admitted for lower GI bleed localized to
   sigmoid/rectum.
   #  Afib with RVR:  intermittent a fib. Rate controlled. Holding
   anticoagulation given GIB
    - Floor team to touch base with outpatient cardiologist re:
   anticoagulation
   # GI bleed: exact precipitant unclear but was on warfarin during time
   of bleed. Mild evidence of colitis/diverticulitis.  On cipro/flagyl.
   - ADAT, cont abx [**7-23**] day course.
   # TCP: likely dilutional, though may be [**2-16**] PPI. Improving.
   - monitor and transfuse if less than 50.
   - Decrease PPI to daily.
   #  CAD: No ischemic changes on EKG, patient denies CP.
   #   Type 2 DM.
   - hold oral hypoglycemics
   #   HTN: stable.
   - hold lisinopril, doxazosin due to low BPS in setting of bleed
   #   Hypothyroid.
   - continue levoxyl
   #  Depression.
   - continue fluoxetine
   #  Med Rec.  Will need to clarify home meds with patient's wife or
   pharmacy.  Patient unclear of his home meds.
   FEN: NPO pending stability of Hct
   PPx: boots
   CODE: FULL, ICU consent signed
   Dispo: ICU
   Access: 2 20s and an 18
   Comm: patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-8-23**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-08-24 09:24:00 Physician Attending Progress Note
Chief Complaint: gib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69M with afib on coumadin, presented with life-threatening lgib, mostly
   from dverticulosis but some colitis visible on [**Last Name (un) **] as well
   24 Hour Events:
   -- CALLED OUT, no bed
   -- hct platelet
   History obtained from Patient
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   intollerance to
   Last dose of Antibiotics:
   Metronidazole - [**2184-8-24**] 12:00 AM
   Ciprofloxacin - [**2184-8-24**] 03:13 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2184-8-23**] 02:00 PM
   Pantoprazole (Protonix) - [**2184-8-24**] 08:00 AM
   Other medications:
   mvi, tricor, metronid, cipro, metopr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-8-24**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 71 (63 - 105) bpm
   BP: 139/76(90) {99/43(57) - 139/76(90)} mmHg
   RR: 24 (10 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,516 mL
                                                                    300 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    800 mL
                                                                    300 mL
   Blood products:
                                                                    116 mL
   Total out:
                                                                  4,640 mL
                                                                  1,200 mL
   Urine:
                                                                  4,490 mL
                                                                  1,200 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                 -3,124 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   145 K/uL
   176 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.7 mEq/L
   7 mg/dL
   108 mEq/L
   138 mEq/L
   31.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2184-8-22**]  08:10 AM
                             [**2184-8-22**]  12:11 PM
                             [**2184-8-22**]  04:18 PM
                             [**2184-8-22**]  08:00 PM
                             [**2184-8-23**]  02:28 AM
                             [**2184-8-23**]  08:07 AM
                             [**2184-8-23**]  01:10 PM
                             [**2184-8-23**]  10:00 PM
                             [**2184-8-23**]  10:50 PM
                             [**2184-8-24**]  03:04 AM
   WBC
   5.6
   6.1
   Hct
   31.3
   27.7
   31.7
   29.0
   32.1
   33.2
   34.0
   31.5
   31.8
   Plt
   101
   136
   145
   Cr
   1.1
   1.1
   Glucose
   135
   176
   Other labs: PT / PTT / INR:13.7/26.9/1.2, ALT / AST:19/20, Alk Phos / T
   Bili:35/1.1, Differential-Neuts:61.0 %, Lymph:25.6 %, Mono:7.9 %,
   Eos:5.2 %, Fibrinogen:184 mg/dL, LDH:197 IU/L, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.1 mg/dL
   Imaging: none new
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 DIABETES MELLITUS (DM), TYPE II
   69M with CAD, afib on coumadin, h/o CVA, presnted with life-threatening
   GIB likely from diverticula but also with evidence of inflammation on
   colonoscopy, no on abx with no more bleeding. Last transfusion ~36 hrs
   ago now with BMs without blood:
   gib: see above
   -hold anticoagulation for now
   -complete po course of flagyl/cipro for total of 10 days
   afib with rvr:
   -continue to uptitrate metoprlol to home dose
   -will defer to outpatient cards whether candidate for amio (appt made,
   pt on vacation)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2184-8-23**] 11:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :D/C Home if OK by GI
   Total time spent: 35 minutes